US05744627
Methyl 4-aminomethylsalicylate hydrochloride (10.9 g, 50 mmoles) was suspended in anhydrous methanol (200 mL) and di-tert-butyldicarbonate (10.9 g, 50 mmoles) and triethylamine (7.0 mL, 50 mmoles) were added. The solid rapidly dissolved with the slow evolution of gas. The reaction mixture was stirred at room temperature for 18 hours under dry nitrogen, then evaporated to dryness to afford a white amorphous mass. This mass waspartitioned between ethyl acetate (200 mL) and water (100 mL). The layers were separated, and the ethyl acetate solution was dried over anhydrous sodium sulfate. The solution was filtered and evaporated to a white solid.This solid was crystallized from ethyl acetate/hexanes, filtered, and driedin vacuo to afford 13.7 g (97% yield) of methyl N-tert-butoxycarbonylaminomethyl-salicylate (m.p. 95°-96° C., open capillary, uncorrected).

reactant | Methyl 4-aminomethylsalicylate hydrochloride | 50 mmoles, 10.9 g | Cl.NCC=1C=C(C(C(=O)OC)=CC1)O
reactant | di-tert-butyldicarbonate | 50 mmoles, 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 50 mmoles, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | methyl N-tert-butoxycarbonylaminomethyl-salicylate | 13.7 g, 97% yield | C(C)(C)(C)OC(=O)NCOC=1C(C(=O)OC)=CC=CC1 | C14H19NO5
